US04218477
A. 2-chloro-2',3',6'-trimethylacetanilide.
A mixture of 7.8 g of 2,3,6-trimethylaniline R. A. Scherrer and H. R. Beatty, J. Org. Chem. 37, 1681 (1972), and 50 ml glacial acetic acid was cooled to 10° C. in a glass stoppered bottle, 7.23 g chloroacetyl chloride was added, mixed quickly and followed immediately by a cooled solution of 19.3 g sodium acetate trihydrate in 80 ml water. The mixture was shaked for 30 min. and the solid material was filtered off and washed carefully with water. After drying, a yield of 9.94 g (81%) was obtained. It melted at 145°-146° C. Analysis: Calcd. for C11H14ClNO: C 62.4, H 6.67, Cl 16.8. Found: C 62.4, H 6.78, Cl 16.8.

reactant | 2,3,6-trimethylaniline | 7.8 g | CC1=C(N)C(=CC=C1C)C | C9H13N
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 7.23 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate trihydrate | 19.3 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 80 ml | O | H2O
product | 2-chloro-2',3',6'-trimethylacetanilide | ClCC(=O)NC1=C(C(=CC=C1C)C)C | C11H14ClNO
